US08242282B2
2-Methylprop-1-en-1-one (0.04 g, 5.0 mmol) and 2-phenylacetaldehyde (0.60 g, 5.0 mmol) were dissolved in ethylacetate (3.5 mL) and stirred at 0° C. under nitrogen. Zinc(II) chloride (0.03 g, 0.25 mmol) was added quickly and the reaction mixture was kept at 0° C. for a short period and then at room temperature overnight (monitored by TLC). The reaction mixture was then treated at room temperature with a solution of NaHCO3(aq). The organic layers were combined, dried, and concentrated in vacuo, and the crystallization in CH2Cl2:hexane=1:1 gave 4-benzyl-3,3-dimethyloxetan-2-one (0.80 g, 84%).

reactant | 2-Methylprop-1-en-1-one | 5.0 mmol, 0.04 g | CC(=C=O)C | C4H6O
reactant | 2-phenylacetaldehyde | 5.0 mmol, 0.60 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethylacetate | 3.5 mL | C(C)OC(C)=O | C4H8O2
catalyst | Zinc(II) chloride | 0.25 mmol, 0.03 g | [Cl-].[Zn+2].[Cl-]
product | 4-benzyl-3,3-dimethyloxetan-2-one | 0.80 g, 84% | C(C1=CC=CC=C1)C1C(C(O1)=O)(C)C | C12H14O2
